US05648370
a) 3-[2-[2-Phenylethoxy]ethoxy]propanenitrile
A mixture of 3-(2-phenylethoxy)ethanol (8.0 g, prepared from 2-phenylmethyl 1,3-dioxolane according to the general method in Can. J. Chem., 1974, 52, 888), 3-bromopropanenitrile (5.6 ml), sodium hydroxide (50 g) and tetrabutylammonium chloride (0.5 g) in dichloromethane (100 ml) and water (100 ml) was stirred at room temperature for 72 hours. The mixture was diluted with water and the organic layer separated. The aqueous layer was extracted with a further portion of dichloromethane. The combined organic extracts were washed with dilute aqueous hydrochloric acid and water, dried (MgSO4) and evaporated under reduced pressure to yield the crude product. This material was purified by flash chromatography over silica using 1:1 ether:petroleum ether (bp 60°-80°) as eluant to give the subtitled compound as an oil (9.84 g, 90% ).

reactant | 2-phenylmethyl 1,3-dioxolane | C1(=CC=CC=C1)CC1OCCO1 | C10H12O2
reactant | 3-bromopropanenitrile | 5.6 ml | BrCCC#N | C3H4BrN
reactant | sodium hydroxide | 50 g | [OH-].[Na+]
catalyst | tetrabutylammonium chloride | 0.5 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 3-[2-[2-Phenylethoxy]ethoxy]propanenitrile | 9.84 g, 90% | C1(=CC=CC=C1)CCOCCOCCC#N | C13H17NO2
